US04661505
F. Preparation of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoic acid
A solution of 2.5 g. of ethyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoate in 40 ml. of 1N sodium hydroxide and 20 ml. of ethanol was stirred for 24 hours. The reaction was diluted with 100 ml. of water, and was extracted with hexane and ethyl acetate. The aqueous layer was acidified with hydrochloric acid and extracted twice with ethyl acetate. The ethyl acetate layers were combined, dried over sodium sulfate, and evaporated in vacuo yielding 1.83 g. of the title product.

reactant | ethyl 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoate | C(C)(=O)C1=C(C(=C(OC(CCCCC(=O)OCC)C2=CC=C(C=C2)CC2=CC=CC=C2)C=C1)CCC)O | C32H38O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-6-(4-benzylphenyl)hexanoic acid | C(C)(=O)C1=C(C(=C(OC(CCCCC(=O)O)C2=CC=C(C=C2)CC2=CC=CC=C2)C=C1)CCC)O | C30H34O5
